US08110585B2
(7-chloro-2-methyl-2H-indazol-4-yl)methanol
To a solution of methyl 7-chloro-2-methyl-2H-indazole-4-carboxylate (4.10 g, 18.3 mmol) in tetrahydrofuran (100 mL) was added a solution (1 M, 54.8 mL, 54.8 mmol) of diisobutylaluminum hydride in hexane at −78° C., and the mixture was stirred for 20 min. The reaction mixture was warmed to room temperature, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture at 0° C. An aqueous sodium hydroxide solution (1 N, 20 mL) was added, and the mixture was stirred at 0° C. for 10 min. The reaction mixture was acidified with 6 M hydrochloric acid (10 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/1) to give the title compound (3.40 g, yield 95%).

reactant | methyl 7-chloro-2-methyl-2H-indazole-4-carboxylate | 18.3 mmol, 4.10 g | ClC1=CC=C(C2=CN(N=C12)C)C(=O)OC | C10H9ClN2O2
reactant | diisobutylaluminum hydride | 54.8 mmol, 1 M, 54.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 1 N, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | (7-chloro-2-methyl-2H-indazol-4-yl)methanol | 3.40 g, yield 95% | ClC1=CC=C(C2=CN(N=C12)C)CO | C9H9ClN2O
